US05571810
A mixture of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-acetic acid (4.1 g) and 1,1'-carbonyldiimidazole (1.8 g) in tetrahydrofuran (50 ml) was stirred and refluxed for 1 hour. The mixture was added dropwise to an ice-cooled mixture of ammonia water (28%; 5 ml) and tetrahydrofuran (10 ml). The resulting mixture was stirred overnight, diluted with water, and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium bicarbonate, water, and dilute hydrochloric acid, successively. The organic layer was dried and concentrated, and the residue was recrystallized from a mixture of chloroform, ethyl acetate and ethanol to give crystals of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-acetamide (3.2 g).

reactant | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-acetic acid | 4.1 g | FC1=CC=C(C=C1)C1=C(C=C(S1)CC(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C19H15FO4S2
reactant | 1,1'-carbonyldiimidazole | 1.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia water | 5 ml | O.N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-acetamide | 3.2 g | FC1=CC=C(C=C1)C1=C(C=C(S1)CC(=O)N)C1=CC=C(C=C1)S(=O)(=O)C | C19H16FNO3S2
